US06664412B2
4-methyl-4-nitropentyl Iodide
4-Methyl-4-nitropentanol methanesulfonate (3.38 g, 15 mmol) was dissolved in acetone (50 ml) and sodium iodide (8.7 g, 58 mmol) was added. The mixture was stirred overnight. Water (20 ml) was added and acetone was evaporated by concentration under reduced pressure. The residue was extracted with ethyl acetate (50 ml). The extract was washed with 5% aqueous sodium thiosulfate solution (20 ml) and saturated brine (20 ml), and ethyl acetate was evaporated by concentration under reduced pressure to give the objective compound (3.84 g, yield 99.6%).

reactant | 4-Methyl-4-nitropentanol methanesulfonate | 15 mmol, 3.38 g | CS(=O)(=O)OCCCC(C)([N+](=O)[O-])C | C7H15NO5S
reactant | sodium iodide | 58 mmol, 8.7 g | [I-].[Na+]
reactant | Water | 20 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-methyl-4-nitropentyl Iodide | 3.84 g, yield 99.6% | CC(CCCI)(C)[N+](=O)[O-] | C6H12INO2
